US04757061
4-aminoandrost-4-en-3,17-dione [I, R=NH2, R1 =R2 =H, (x)=(y)=single bond]
To a stirred solution of 0.45 g of 4-aminoandrost-4,6-dien-3,17-dione in 20 ml of diethyl ether and 40 ml of liquid ammonia are added 0.28 g of lithium metal at small portions. The resulting blue reaction mixture is stirred for additional 30 minutes, quenched with absolute ethanol till the blue colour fades and allowed to reach the room temperature. The resulting residue is taken up with water, extracted with diethyl ether and purified as described in example 10. There are obtained 0.280 g of the title compound, m.p. 185°-187° C.

reactant | 4-aminoandrost-4,6-dien-3,17-dione | 0.45 g | NC1=C2C=C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C19H25NO2
reactant | ammonia | N | H3N
reactant | lithium | 0.28 g | [Li] | Li
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 4-aminoandrost-4-en-3,17-dione | 0.280 g | NC1=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C19H27NO2
